data/pmechdb/original/mc_train_fold0/raw/train.txt
C[CH+:20]C.C1=CC2=CC=C(C=C2[CH:10]=[CH:11]1)C#N>>C[CH:20](C)[CH:10]1[CH+:11]C=CC2=CC=C(C=C12)C#N 10,11=10,20
[H:20][O:21]S(=O)(=O)[O-].N(=O)[OH:10].CS(=O)(=O)C1=CC=C(C=C1)C2=CC=C(C=C2)N.[Na+]>>[H:20][OH+:10]N=O.[O-:21]S(=O)(=O)[O-].CS(=O)(=O)C1=CC=C(C=C1)C2=CC=C(C=C2)N.[Na+] 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(C)([OH:10])OCCO>>[H:20][OH+:10]C(C)(C)OCCO.OS(=O)(=O)[O-:21] 10=20;20,21=21
C1=C[C:23]2=[C:22]([C:21](=[C:20]([NH+:25]=[C:24]2C=C1)OP(=O)(Cl)Cl)[N+](=O)[O-])O.[Cl-:10].CCN(CC)CC>>C1=C[C:23]2=[C:24](C=C1)[NH:25][C:20]([C:21](=[C:22]2O)[N+](=O)[O-])(OP(=O)(Cl)Cl)[Cl:10].CCN(CC)CC 10=20;24,25=25;20,21=21,22;22,23=23,24
C[C:20](=[O:21])OC(=O)CC[O-:10]>>C[C:20]1([O:10]CCC(=O)O1)[O-:21] 10=20;20,21=21
[H:20][O+:21](CC)C(CC)C1=CC=CC=C1.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CCC(C1=CC=CC=C1)[O:21]CC 10=20;20,21=21
CC1=C(S[C-:10]=[N+]1CC2=CC=CC=C2)CCO.C1=CC=C(C=C1)[CH:20]=[O:21].CC[NH+](CC)CC.CC(=O)C=C.CC(=O)OCC(=O)C=C.[Cl-]>>CC1=C(S[C:10](=[N+]1CC2=CC=CC=C2)[CH:20](C3=CC=CC=C3)[O-:21])CCO.CC[NH+](CC)CC.CC(=O)C=C.CC(=O)OCC(=O)C=C.[Cl-] 10=20;20,21=21
[B-]([O+](C)[Si-:11](C)(C)(C)[CH2:10][CH+:20]CC1C2COC(=O)C2C(C3=C1C=C4C(=C3)OCO4)C5=CC(=C(C(=C5)OC)OC(=O)OCC6=CC=CC=C6)OC)(F)(F)F>>[B-]([O+](C)[Si:11](C)(C)C)(F)(F)F.COC1=CC(=CC(=C1OC(=O)OCC2=CC=CC=C2)OC)C3C4C(COC4=O)C(C5=C3C=C6C(=C5)OCO6)C[CH:20]=[CH2:10] 10,11=10,20
[H:20][O:21]P(=O)(O)OP(=O)(O)O.CC1=CC2=C(C=C1)[N:10]=C(CCC2C3=CC=CC=C3)O>>[H:20][N+:10]1=C(CCC(C2=C1C=CC(=C2)C)C3=CC=CC=C3)O.OP(=O)(O)OP(=O)(O)[O-:21] 10=20;20,21=21
CCOCC1C(C[CH:20]([O:10]1)[N+:21]2=CC(=CC=C2)C3CCCCC3)O>>CCOCC1C(C[CH:20]=[O+:10]1)O.C1CCC(CC1)C2=CC=C[N:21]=C2 10=20;20,21=21
[H:20][OH2+:21].COC=[NH:10]>>[H:20][NH+:10]=COC.[OH2:21] 10=20;20,21=21
[H:20][O:21]O.[Li:11][OH:10].CC(C(C1=CC=CC=C1)O)C(=O)N2C(COC2=O)CC3=CC=CC=C3>>[H:20][OH:10].[Li+:11].O[O-:21].CC(C(C1=CC=CC=C1)O)C(=O)N2C(COC2=O)CC3=CC=CC=C3 10,11=10,20;20,21=21
[H:20][C:21](CCCCBr)(C(=O)OCC)[C:22](=[O:23])OCC.CC[O-:10]>>[H:20][O:10]CC.CCO[C:22](=[C:21](CCCCBr)C(=O)OCC)[O-:23] 10=20;22,23=23;20,21=21,22
[H:20][N:21](CC)CC.CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.CC[N-:21]CC 10=20;20,21=21
C[NH2:10].CO[C:20](=[OH+:21])OC>>C[NH2+:10][C:20]([OH:21])(OC)OC 10=20;20,21=21
[H:20][C:21]12C=CC=C[C+:22]1CCCCC2C.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.CC1CCCC[C:22]2=[C:21]1C=CC=C2 10=20;20,21=21,22
C[CH+:20]CCCO[C:11]1=[CH:10]C=CC=C1>>C[CH:20]1CCCO[C+:11]2[CH:10]1C=CC=C2 10,11=10,20
C[Si-:10](C)(C)(OS(=O)(=O)C)[O+:11]=C>>C[Si:10](C)(C)OS(=O)(=O)C.C=[O:11] 10,11=11
[H:20][N:21]=NC1CCC2(C3CC4=C5C2(C1OC5=C(C=C4)OC)CCN3CCC6=CC=CC=C6)O.[OH-:10].[K+]>>[H:20][OH:10].COC1=C2C3=C(CC4C5(C3(CCN4CCC6=CC=CC=C6)C(O2)C(CC5)N=[N-:21])O)C=C1.[K+] 10=20;20,21=21
CC([C:20](=[O:21])OC(=NC1CCCCC1)NC2CCCCC2)NC(=O)OC.C1=CC2=C(C=C1)N(N=N2)[O-:10].CC(C(=O)NC)N>>CC([C:20]([O-:21])(OC(=NC1CCCCC1)NC2CCCCC2)[O:10]N3C4=C(C=CC=C4)N=N3)NC(=O)OC.CC(C(=O)NC)N 10=20;20,21=21
[H:20][CH:21](C)[C:22](C)(Br)[Br:23].CC(C)[N-:10]C(C)C>>[H:20][N:10](C(C)C)C(C)C.C[CH:21]=[C:22](C)Br.[Br-:23] 10=20;22,23=23;20,21=21,22
[H:20][CH:21](C)[C:22](=[NH+:23]C(C(C)C)C(=O)O)CCC1(C(=O)CCC1=O)C.CC(C)C(C(=O)[O-:10])N.O>>[H:20][O:10]C(=O)C(C(C)C)N.C[CH:21]=[C:22](CCC1(C(=O)CCC1=O)C)[NH:23]C(C(C)C)C(=O)O.O 10=20;22,23=23;20,21=21,22
C[C:11](=[CH2:10])[N:12]1CCCC1.CO[C:22](=[O:23])[CH:21]=[CH2:20]>>C[C:11](=[N+:12]1CCCC1)[CH2:10][CH2:20][CH:21]=[C:22]([O-:23])OC 10,11=10,20;12=11;22,23=23;20,21=21,22
[CH3:10][Mg:11]I.C[Mg-]([P+:20](Cl)(Cl)Cl)I>>C[Mg-]([P:20]([CH3:10])(Cl)(Cl)Cl)I.[Mg+:11]I 10,11=10,20
[Li:11][CH2:10]CCC.[Li]OC(C1=C(C=CC=C1)[Br:20])C(C)(C)C=C2SCCCS2>>[Li+:11].[Li]OC(C1=C(C=CC=C1)[Br-:20][CH2:10]CCC)C(C)(C)C=C2SCCCS2 10,11=10,20
C[OH+:21][C:20]([NH2:10])(OC)OC>>C[OH:21].CO[C:20](=[NH2+:10])OC 10=20;20,21=21
[H:20][C:21]1([CH:22]=[CH:23][C+:24](C(=C1)Br)OC(=O)CC)Br.[Br-:10]>>[H:20][Br:10].CCC(=O)O[C:24]1=[CH:23][CH:22]=[C:21](C=C1Br)Br 10=20;20,21=21,22;22,23=23,24
[H:20][OH+:21]P(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)NCC(=O)OCCC.[OH2:10].N#N>>[H:20][OH2+:10].CCCOC(=O)CNP(C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH:21].N#N 10=20;20,21=21
CCOC(=O)C1C(C(=C([NH:10][C:20]1(C)[OH2+:21])C)C(=O)OCC)C2=C(ON=C2C)CCC3=CC(=CC=C3)Br.CCO.N.O>>CCOC(=O)C1C(C(=C([NH+:10]=[C:20]1C)C)C(=O)OCC)C2=C(ON=C2C)CCC3=CC(=CC=C3)Br.[OH2:21].CCO.N.O 10=20;20,21=21
[CH3:20][I:21].C1C[N:10]2CCN1CC2>>[CH3:20][N+:10]12CCN(CC1)CC2.[I-:21] 10=20;20,21=21
C[C:20](=[O:21])OC1=CC=CC=C1.C[O-:10].C(=O)(O)O[K]>>C[C:20]([O-:21])([O:10]C)OC1=CC=CC=C1.C(=O)(O)O[K] 10=20;20,21=21
CCN[C:20](=[OH+:21])C.[OH2:10]>>CCN[C:20](C)([OH2+:10])[OH:21] 10=20;20,21=21
CC(=O)CC1C(=O)CCC[C:20]1([NH2:10])[OH2+:21].CC(=O)[O-]>>CC(=O)CC1[C:20](=[NH2+:10])CCCC1=O.[OH2:21].CC(=O)[O-] 10=20;20,21=21
[H:20][NH+:21](CC(=O)O)C(CCC(=O)C1=CC=CO1)(C2=CC=CC=C2)O.CC(=O)[O-:10]>>[H:20][O:10]C(=O)C.C1=CC=C(C=C1)C(CCC(=O)C2=CC=CO2)([NH:21]CC(=O)O)O 10=20;20,21=21
C[C:20](=[O:21])OS(=O)Cl.[Cl-:10]>>C[C:20]([O-:21])(OS(=O)Cl)[Cl:10] 10=20;20,21=21
